data/rdb19/train.csv
rxn,smiles,ea
4099,[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])[C:5](=[O:6])[O:7][C:8]([H:17])([H:18])[H:19])([H:12])[H:13])([H:9])([H:10])[H:11].[C:20]([C:21]([C:22]([C:23]([H:36])([H:37])[H:38])([c:24]1[c:25]([H:39])[c:26]([H:40])[c:27]([H:41])[c:28]([H:42])[c:29]1[H:43])[H:35])([H:33])[H:34])([H:30])([H:31])[H:32]>>[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[O:7][C:8]([H:17])([H:18])[H:19])[C:20]([H:30])([H:31])[H:32])([H:12])[H:13])([H:9])([H:10])[H:11].[C:21]([C:22]([C:23]([H:36])([H:37])[H:38])([c:24]1[c:25]([H:39])[c:26]([H:40])[c:27]([H:41])[c:28]([H:42])[c:29]1[H:43])[H:35])([H:33])[H:34],61.52566669072257
5291,[C:1]([C:2]([C:3]([H:4])([c:5]1[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]1[H:20])[C:22]([C:21]([H:27])([H:28])[H:29])([O:23])[O:24][C:25](=[C:26]([H:31])[H:32])[H:30])([H:14])[H:15])([H:11])([H:12])[H:13]>>[C:1]([C:2]([C:3]1([H:4])[C:5]2([C:6]([H:16])[C:7]([H:17])=[C:8]([H:18])[C:9]([H:19])=[C:10]2[H:20])[O:23][C:22]1([C:21]([H:27])([H:28])[H:29])[O:24][C:25](=[C:26]([H:31])[H:32])[H:30])([H:14])[H:15])([H:11])([H:12])[H:13],19.80084085994168
4422,[C:13]([C:14]([C:15]([C:16]([H:25])([H:26])[H:27])[C:17](=[O:18])[O:19][H:28])([H:23])[H:24])([H:20])([H:21])[H:22].[C:1]([C:2](=[C:3]([H:10])[H:11])[C:4](=[O:5])[O:6][H:12])([H:7])([H:8])[H:9]>>[C:13]([C:14]([C:15](=[C:16]([H:25])[H:26])[C:17](=[O:18])[O:19][H:28])([H:23])[H:24])([H:20])([H:21])[H:22].[C:1]([H:7])([H:8])([H:9])[H:27].[C:2](=[C:3]([H:10])[H:11])[C:4](=[O:5])[O:6][H:12],91.51838001748548
2618,[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([C:7]([H:17])([H:18])[H:19])([C:8]([H:9])[H:10])[H:16])([H:14])[H:15])([H:11])([H:12])[H:13].[C:20](=[C:21]([c:22]1[c:23]([H:31])[c:24]([H:32])[c:25]([H:33])[c:26]([H:34])[c:27]1[H:35])[H:30])([H:28])[H:29]>>[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([C:7]([H:17])([H:18])[H:19])=[C:8]([H:9])[H:10])([H:14])[H:15])([H:11])([H:12])[H:13].[H:16][C:25]1([H:33])[C:24]([H:32])[C:23]([H:31])=[C:22]([C:21](=[C:20]([H:28])[H:29])[H:30])[C:27]([H:35])=[C:26]1[H:34],34.17096553661395
4437,[C:13]([O:14][C:15]([C:16]([H:24])([H:25])[H:26])([C:17]([H:18])[H:19])[H:23])([H:20])([H:21])[H:22].[C:1]([C:2](=[C:3]([H:10])[H:11])[C:4](=[O:5])[O:6][H:12])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[C:3]([H:10])[H:11])[C:4]=[O:5])([H:7])([H:8])[H:9].[O:6]([H:12])[C:17]([C:15]([O:14][C:13]([H:20])([H:21])[H:22])([C:16]([H:24])([H:25])[H:26])[H:23])([H:18])[H:19],49.43632368475664
1381,[O:1]([C:2]([O:3])([C:4](=[C:5]([H:8])[H:9])[H:7])[C:15]([C:13]([O:12][C:11]([C:10]([H:19])([H:20])[H:21])([H:22])[H:23])=[O:14])([H:16])[C:17]([C:18]([H:26])([H:27])[H:28])([H:24])[H:25])[H:6]>>[C:10]([C:11]([O:12][C:13]=[O:14])([H:22])[H:23])([H:19])([H:20])[H:21].[O:1]([C:2]1([C:4](=[C:5]([H:8])[H:9])[H:7])[O:3][C:15]1([H:16])[C:17]([C:18]([H:26])([H:27])[H:28])([H:24])[H:25])[H:6],43.527067106973846
3149,[C:1]([C:2]([C:3]([C:4]([H:12])([H:13])[H:14])([C:5]([H:15])([H:16])[H:17])[C:6]([H:18])([H:19])[H:20])([H:10])[H:11])([H:7])([H:8])[H:9].[C:21]([C:22]([C:23]([C:24]([H:34])([H:35])[H:36])([C:25]([H:26])[H:27])[H:33])([H:31])[H:32])([H:28])([H:29])[H:30]>>[C:1]([H:7])([H:8])([H:9])[H:33].[C:21]([C:22]([C:23]([C:24]([H:34])([H:35])[H:36])=[C:25]([H:26])[H:27])([H:31])[H:32])([H:28])([H:29])[H:30].[C:2]([C:3]([C:4]([H:12])([H:13])[H:14])([C:5]([H:15])([H:16])[H:17])[C:6]([H:18])([H:19])[H:20])([H:10])[H:11],80.39547381637385
902,[C:19]([C:20]([C:21]([H:22])[H:23])([O:24][C:25](=[O:26])[C:27]([H:32])([H:33])[H:34])[H:31])([H:28])([H:29])[H:30].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[N:7]([H:17])[H:18])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([C:4]([H:14])[H:15])([C:5](=[O:6])[N:7]([H:17])[H:18])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10].[H:16][C:21]([C:20]([C:19]([H:28])([H:29])[H:30])([O:24][C:25](=[O:26])[C:27]([H:32])([H:33])[H:34])[H:31])([H:22])[H:23],22.386407199606765
4977,[C:15](=[C:16]([N:17]([C:18](=[O:19])[H:24])[H:23])[H:22])([H:20])[H:21].[C:1]([C:2]([C:3]([H:4])[O:5][C:6]([H:12])([H:13])[H:14])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([H:4])([O:5][C:6]([H:12])([H:13])[H:14])[C:16]([C:15]([H:20])[H:21])([N:17]([C:18](=[O:19])[H:24])[H:23])[H:22])([H:10])[H:11])([H:7])([H:8])[H:9],17.548453005438205
4334,[C:16]([C:17]([C:18]([H:19])[H:20])([O:21][C:22](=[O:23])[C:24]([H:29])([H:30])[H:31])[H:28])([H:25])([H:26])[H:27].[C:1]([O:2][C:3](=[O:4])[C:5](=[C:6]([H:11])[H:12])[C:7]([H:13])([H:14])[H:15])([H:8])([H:9])[H:10]>>[C:16]([C:17](=[C:18]([H:19])[H:20])[O:21][C:22](=[O:23])[C:24]([H:29])([H:30])[H:31])([H:25])([H:26])[H:27].[C:1]([H:8])([H:9])([H:10])[H:28].[O:2][C:3](=[O:4])[C:5](=[C:6]([H:11])[H:12])[C:7]([H:13])([H:14])[H:15],69.76449293713085
